US07468378B2
(S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-azido-1-phenyl-ethyl)amide (M, 0.722 mg, 1.22 mM) was dissolved in dioxane (10 mL). Triphenyl phosphine (0.35 g, 1.34 mM) was added and the mixture was stirred at 50° C. for 4 h. The mixture was removed from the heat and treated with an aqueous solution of NaOH (1N, 5 mL). The resulting mixture was stirred at room temperature for 2 h. The mixture was treated with 1N HCl (10 mL) and stirred for 12 h. The precipitate was collected by filtration and washed with ether. The solid was dried under high vacuum to provide (S)-2-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-amino-1-phenyl-ethyl)-amide. ESMS (m+1), 555; calc. Mw, 554

reactant | (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-azido-1-phenyl-ethyl)amide | 1.22 mM, 0.722 mg | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H23F3N6O2
reactant | Triphenyl phosphine | 1.34 mM, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-2-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-amino-1-phenyl-ethyl)-amide | NC[C@H](C1=CC=CC=C1)NC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H25F3N4O2
